Name:  ___.              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Iodine-Iodine Containing
 
Attending: ___.
 
Chief Complaint:
BRBPR
 
Major Surgical or Invasive Procedure:
___ Flexible sigmoidoscopy 

 
History of Present Illness:
Mr. ___ is a ___ w/ PMH of CAD with MI stents 
placement in ___, refractory ulcerative colitis (s/p total 
proctocolectomy with ileal pouch anal anastamosis colectomy ___ 
years ago), pouch dysfunction and pouchitis who presents to ED 
with BRBPR. 

Patient has a history of MI in ___ and is on aspirin and 
Plavix. He noticed bloody stools 2 days ago, which he has never 
had before. He does have a history of colorectal surgery in the 
past and is followed by GI. He called his
cardiologist who told him to stop the aspirin and Plavix because 
of GI bleed and to come to the ED for evaluation. He denies 
abdominal pain, nausea, vomiting, dizziness/lightheadedness, 
chest pain or shortness of breath. He has had 6 episodes of 
bloody stools since yesterday.

In the ED:
Initial vital signs were notable for:
Temp 98.6 HR 67 BP 147/82 RR 15 Puls ox 99% RA 
 
Exam notable for:
stool at bedside, bloody 

Labs were notable for:
Hgb 13.7
Pt/PTT 12.0/26.1

Studies performed include: n/a

Patient was given: n/a

Consults:
GI was consulted and recommended admit to medicine to make NPO @ 
MN and enema for flex sig in AM.

Upon arrival to the floor, the patient endorsed the history per 
above. In further detail, the patient has @ baseline ___ bowel 
movements without blood. He had new onset bloody bowel movements 
2x yesterday and called his cardiologist who told him to stop 
both Plavix and aspirin and to restart his aspirin when his BM 
clears. He had 2x clear BM and restarted his aspirin. Then since 
this morning, the patient has had ___ bloody bowel movements 
with blood on the toilet paper and the toilet bowl. Denies 
abdominal pain, n/v, or rectal pain. His previous episodes of 
pouchitis manifested in watery diarrhea without bleeding.
 
Past Medical History:
- Ulcerative colitis status post total proctocolectomy and IPAA
- CAD s/p stent placements in ___
 
Social History:
___
Family History:
Father: strokes
Sister: breast cancer
Denies family hx of CAD, UC, or Crohn's
 
Physical Exam:
===============================
ADMISSION PHYSICAL EXAMINATION:
===============================

VITALS: Temp 98.3  BP 135/75  HR 58  RR 16  SaO2 97% RA
GENERAL: well-appearing man, appears younger than stated ago. 
Alert and interactive. In no acute distress.
HEENT: NCAT. PERRL, EOMI. Sclera anicteric and without 
injection. MMM.
NECK: No cervical lymphadenopathy. No JVD. JVP elevation
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No 
murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or 
rales. No increased work of breathing.
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep 
palpation in all four quadrants. No organomegaly.
EXTREMITIES: No clubbing, cyanosis, or edema. Pulses DP/Radial 
2+ bilaterally.
SKIN: Warm. No rash.
NEUROLOGIC: CN2-12 grossly intact. Moving all extremities 
spontaneously. A&Ox3.

===============================
DISCHARGE PHYSICAL EXAMINATION:
===============================

VS: Temp: 98.0 PO BP: 117/67HR: 66 RR: 18 O2 sat: 98% RA 
GENERAL: Well-appearing man, appears younger than stated ago. 
Alert and interactive. In no acute distress.
HEENT: no conjunctival pallor, anicteric sclera, MMM
NECK: No cervical lymphadenopathy. No JVD. JVP elevation
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No 
murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or 
rales. No increased work of breathing.
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep 
palpation in all four quadrants. 
EXTREMITIES: No clubbing, cyanosis, or edema. Pulses DP/Radial 
2+ bilaterally.
SKIN: Warm. No rash.
NEUROLOGIC: CN2-12 grossly intact. Moving all extremities 
spontaneously. A&Ox3.
 
Pertinent Results:
===============
ADMISSION LABS:
===============

___ 07:45PM BLOOD WBC-6.0 RBC-4.19* Hgb-13.7 Hct-40.0 
MCV-96 MCH-32.7* MCHC-34.3 RDW-13.1 RDWSD-45.8 Plt ___
___ 07:45PM BLOOD Neuts-65.5 ___ Monos-9.0 Eos-1.8 
Baso-0.5 Im ___ AbsNeut-3.94 AbsLymp-1.38 AbsMono-0.54 
AbsEos-0.11 AbsBaso-0.03
___ 07:45PM BLOOD ___ PTT-26.1 ___
___ 07:45PM BLOOD Glucose-90 UreaN-13 Creat-1.2 Na-144 
K-4.0 Cl-106 HCO3-25 AnGap-13
___ 07:45PM BLOOD ALT-27 AST-23 AlkPhos-87 TotBili-1.1
___ 07:45PM BLOOD Albumin-4.4 Iron-106
___ 07:45PM BLOOD calTIBC-311 Ferritn-254 TRF-239

======
MICRO:
======

___ C. difficile NAAT - negative

================
IMAGING/REPORTS:
================

___ Flexible sigmoidoscopy
Erythema and congestion with erosions in the pouch (biopsied). 
Normal mucosa in the proximal pouch. 5mm polpy, likely 
inflammatory, in the distal pouch (biopsied).

===============
DISCHARGE LABS:
===============

___ 08:00AM BLOOD WBC-5.3 RBC-4.38* Hgb-14.3 Hct-42.2 
MCV-96 MCH-32.6* MCHC-33.9 RDW-13.2 RDWSD-46.5* Plt ___
___ 08:00AM BLOOD Glucose-76 UreaN-12 Creat-1.0 Na-143 
K-4.6 Cl-104 HCO3-25 AnGap-14
___ 08:00AM BLOOD Calcium-9.5 Phos-2.6* Mg-1.___ with a background history of refractory ulcerative colitis, 
status post total proctocolectomy with ileal-anal pouch 
anastamosis ___ years ago, complicated by pouch dysfunction and 
pouchitis, and STEMI with stent placement placement in ___, 
who presented to the ED with BRBPR.

====================
ACUTE/ACTIVE ISSUES:
====================

# Ileo-anal pouchitis
Patient with a background history of UC, status post total 
proctocolectomy and history of pouchitis. Presented with two 
episodes of BRBPR, in the setting of having ___ BMs/day at 
baseline. Subsequent noted to have clear BMs. Hemoglobin 
remained stable. Flexible sigmoidoscopy demonstrated a 5mm 
ulceration, along with erythema and congestion of the anal 
pouch, consistent with pouchitis. Also notable for likely 
inflammatory polyp, of which biopsies were taken. GI recommended 
Augmentin 875mg BID and mesalamine QHS for two weeks. Given 
hemodynamic stability and stable hemoglobin with no recurrence 
of BRBPR, patient was felt safe for discharge. Should follow-up 
with Dr. ___ in six months. 

# STEMI status post stent placement ___
Patient with history of STEMI with stent placement in ___. 
Completed 10 months of DAPT prior to current presentation. 
Discussed with outpatient cardiologist who understands 
clopidogrel needs to be discontinued in current setting, and 
does not have an issue with same. Continued aspirin 81mg daily, 
metoprolol succinate 25mg and rosuvastatin 20mg QPM. 

======================
CHRONIC/STABLE ISSUES:
======================

# Hypothyroidism 
Continued home levothyroxine 50mcg daily.

====================
TRANSITIONAL ISSUES:
====================

- discharge Hgb 14.3

MEDICATION CHANGES:
[] started Augmentin 875mg BID for two weeks
[] started mesalamine QHS for two weeks
[] stopped clopidogrel 75mg daily

[] POUCHITIS: two week course of Augmentin 875mg BID and 
mesalamine QHS
[] DAPT: per discussion with outpatient cardiologist, 
clopidogrel discontinued but patient should continue on aspirin 
81mg daily 
[] POLYP: biopsies pending at time of discharge

==================================================
# CODE STATUS: Full (confirmed)
# CONTACT: ___, HCP/wife, ___
 
Medications on Admission:
1. Rosuvastatin Calcium 20 mg PO QPM 
2. Metoprolol Succinate XL 25 mg PO DAILY 
3. Levothyroxine Sodium 50 mcg PO DAILY 
4. Clopidogrel 75 mg PO DAILY 
5. Aspirin 81 mg PO DAILY 
6. Cyanocobalamin 1000 mcg PO DAILY 
7. Vitamin D 5000 UNIT PO DAILY 

 
Discharge Medications:
1.  Amoxicillin-Clavulanic Acid ___ mg PO/NG Q12H  
2.  Mesalamine (Rectal) 1000 mg PR QHS  
3.  Aspirin 81 mg PO DAILY  
4.  Cyanocobalamin 1000 mcg PO DAILY  
5.  Levothyroxine Sodium 50 mcg PO DAILY  
6.  Metoprolol Succinate XL 25 mg PO DAILY  
7.  Rosuvastatin Calcium 20 mg PO QPM  
8.  Vitamin D 5000 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
==================
PRIMARY DIAGNOSES:
==================

Ileo-anal pouchitis

====================
SECONDARY DIAGNOSES:
====================

ST-elevation myocardial infarction status post stenting
Hypothyroidism

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

WHY YOU CAME TO THE HOSPITAL
You were admitted to ___ with bright red blood in your stool

WHAT HAPPENED WHILE YOU WERE IN THE HOSPITAL
- Your blood counts remained within normal levels
- You underwent flexible sigmoidoscopy which showed an ulcer in 
your pouch
- You were started on antibiotics and anti-inflammatory 
medication to help heal the ulcer

WHAT YOU NEED TO DO WHEN YOU LEAVE THE HOSPITAL
- You need to follow-up with your PCP as arranged
- It is important you take all your medications as prescribed

It was a pleasure taking care of you!

Your ___ Healthcare Team

MEDICATION CHANGES:
[] started Augmentin 875mg BID for two weeks
[] started mesalamine QHS for two weeks
[] stopped clopidogrel 75mg daily

 
Followup Instructions:
___